US08871753B2
Step B: N-(3-Aminophenyl)-2-(3-nitrophenyl)acetamide hydrochloride
Into the reaction was added tert-butyl (3-{[(3-nitrophenyl)acetyl]amino}phenyl)carbamate (0.46 g, 1.2 mmol) and 4.0 M of hydrogen chloride in 1,4-dioxane (3 mL). The mixture was stirred at rt for 2 h. The solvent was removed under vacuum to give the desired product (0.34 g, 100%) as a white powder. LCMS for C14H13N3O3 (M+H)+: m/z=272.0.

reactant | tert-butyl (3-{[(3-nitrophenyl)acetyl]amino}phenyl)carbamate | 1.2 mmol, 0.46 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C19H21N3O5
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(3-Aminophenyl)-2-(3-nitrophenyl)acetamide hydrochloride | 0.34 g, 100% | Cl.NC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O | InChI=1S/C14H13N3O3.ClH/c15-11-4-2-5-12(9-11)16-14(18)8-10-3-1-6-13(7-10)17(19)20;/h1-7,9H,8,15H2,(H,16,18);1H
